US05405851
A mixture of N-(9-bromo-1,2,5,6-tetrahydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (1.09 g, 2.9 mmoles) and pyridine (0.28 ml, 3.5 mmoles) in dry benzene (100 ml) was stirred and heated to reflux under a nitrogen atmosphere. N-Bromosuccinimide (0.57 g, 3.2 mmoles) was added in a single portion, and the mixture was vigorously stirred and refluxed for 1.5 hours. After cooling, benzene and excess pyridine were removed under reduced pressure, leaving a light yellow residue which was then triturated with methanol:methylene chloride (1:1), filtered and dried to give N-(9-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide. (0.4 g, 37%) 1H NMR(DMSO-d6, 200 MHz) δ: 1.26(s, 9H, t-butyl); 7.58(d, J=9.0 Hz, 1H, Ar); 7.74(dd, J=8.7, 2.1 Hz, 1H, Ar); 7.98(d, J=8.8 Hz, 1H, Ar); 8.25(d, J=9.0 Hz, 1H, Ar); 9.92(d, J=2.0 Hz, 1H, Ar); 11.35(br s, 1H, NH); 12.35(br s, 1H, NH).

reactant | N-(9-bromo-1,2,5,6-tetrahydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 2.9 mmoles, 1.09 g | BrC=1C=CC2=C(C=3C(NC(=NC3CC2)NC(C(C)(C)C)=O)=O)C1 | C17H18BrN3O2
reactant | pyridine | 3.5 mmoles, 0.28 ml | N1=CC=CC=C1 | C5H5N
reactant | N-Bromosuccinimide | 3.2 mmoles, 0.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(9-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | BrC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1 | C17H16BrN3O2
